US09290517B2
(3R,3aR,6R,6aS)-6-allyl-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-ol
A stirred suspension of (3R,3aR,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one (314.3 mg, 0.702 mmol) in THF (7.0 ml) was degassed (3×) and placed under nitrogen after being cooled to 0° C. in an ice bath. Allylmagnesium bromide 1.0 M in ether (1.4 ml, 1.400 mmol) was added to the reaction mixture dropwise over 6 minutes. After 1 hour, the reaction mixture was removed from the ice bath and allowed to warm to room temperature. The reaction mixture was transferred via pipette into saturated aqueous NaHCO3 (50 ml) before being partitioned between EtOAc (100 ml) and water (50 ml). The aqueous layer was extracted with EtOAc (2×50 ml). The organic layers were combined, washed with brine (1×30 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a pale yellow residue. The residue was purified by flash chromatography utilizing a 40 g silica RediSep Rf® column and employing a 0-80% EtOAc/hexane gradient. The product fractions were combined and evaporated under reduced pressure to give the title compound as a colorless residue. LC-MS: calculated for C27H24ClN3O4 489.15 observed m/e: 490.19 (M+H)+ (Rt 1.23/2 min); 1H NMR δ (ppm) (CD3OD): 7.81 (s, 1H), 7.70-7-75 (m, 4H), 7.69 (d, J=7.9 Hz, 2H), 7.47 (t, J=7.7 Hz, 2H), 7.36 (t, J=7.4 Hz, 1H), 5.90-5.99 (m, 1H), 5.53 (qt, J=5.5 Hz, J=10.8 Hz, 1H), 5.14 (broad d, J=12.9 Hz, 2H), 4.96 (t, J=5.3 Hz, 1H), 4.10-4.18 (m, 3H), 3.67 (abqt, J=8.5 Hz, J=24.6 Hz, 2H), 2.30-2.38 (m, 2H).

reactant | (3R,3aR,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one | 0.702 mmol, 314.3 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)C(CO1)=O | C24H18ClN3O4
reactant | Allylmagnesium bromide | 1.0 M | C(C=C)[Mg]Br
reactant | ether | 1.400 mmol, 1.4 ml | CCOCC | C4H10O
solvent | THF | 7.0 ml | C1CCOC1 | C4H8O
product | (3R,3aR,6R,6aS)-6-allyl-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-ol | C(C=C)[C@]1(CO[C@H]2[C@@H]1OC[C@H]2OC=2NC=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C1=CC=CC=C1)N2)O | C27H24ClN3O4
